Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Codeine / Caffeine / Percocet
 
Attending: ___.
 
Chief Complaint:
Leg redness
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ woman with a past medical history 
significant for Alzheimer's dementia, hypothyroidism, and 
hypertension who presents with right lower extremity redness.  
She sustained an injury to her right shin while getting into a 
truck three weeks ago.  She presented to the ED (on ___ and 
the wound was cleaned and Steristrips were applied.  She was 
also given a tetanus shot.  A few days later, she noticed 
erythema surrounding the wound.  She presented to her PCP and 
was prescribed a 10 day course of dicloxacillin, which she 
complete about a week ago.  The redness has spread despite 
antibiotics.  She denies fever/chills, leg pain, loss of 
sensation, or drainage from the wound.

In the ED, initial vitals were: T 96.8 HR 73 BP 171/66 RR 16 
SaO2 99% RA.  Labs notable for a WBC 7.5, lactate 1.3.  Blood 
cultures were drawn and patient was given vancomycin.  
 
On the floor, patient feels well.  She is resting comfortably 
and denies leg pain.
 
Past Medical History:
Mild Alzheimer's dementia
Hypertension
Hyperlipidemia
Hypothyroidism
Osteoporosis
Asthma
GERD
 
Social History:
___
Family History:
She has 2 brothers; one died of pancreatic cancer, as did her 
father. Mother had late-onset breast cancer and died of heart 
disease. She has a son with NIDDM (deceased), and a daughter who 
lives in ___.
 
Physical Exam:
ADMISSION EXAM:
================
Vital Signs: T 97.6, HR 80, BP 110/60, RR 20, SaO2 98% RA 
General: Alert, pleasant, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL
Neck: Supple, JVP not elevated, no LAD  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: +BS, soft, nontender, no rebound or guarding
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema
Skin: Right shin with healing U-shaped laceration, large area of 
surrounding erythema (demarcated), warm, tender to papation, no 
drainage or purulence, no induration  
Neuro: Oriented to self, place, year but not month. CN III-XII 
grossly intact, moving all extremities normally, lower extremity 
strength ___ bilaterally, normal sensation, gait deferred.

DISCHARGE EXAM:
================
Vital Signs: T 98.2, HR 76, BP 118/75, RR 18, SaO2 98% RA
General: Alert, pleasant, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL
Neck: Supple, JVP not elevated, no LAD  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: +BS, soft, nontender, no rebound or guarding
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema
Skin: Right shin with healing U-shaped laceration, small 
surrounding area of erythema (much improved from demarcated line 
yesterday), warm, mildly tender to papation, no drainage or 
purulence, no induration  
Neuro: Oriented to self, place, year but not month. CN III-XII 
grossly intact, moving all extremities normally, lower extremity 
strength ___ bilaterally, normal sensation, gait deferred.
 
Pertinent Results:
ADMISSION LABS:
================
___ 09:30AM BLOOD WBC-7.5 RBC-4.24 Hgb-11.8* Hct-36.4 
MCV-86 MCH-27.8 MCHC-32.4 RDW-14.6 Plt ___
___ 09:30AM BLOOD Neuts-56.5 ___ Monos-7.1 Eos-4.3* 
Baso-0.8
___ 09:30AM BLOOD Glucose-73 UreaN-24* Creat-0.9 Na-143 
K-3.7 Cl-110* HCO3-25 AnGap-12
___ 10:10AM BLOOD Lactate-1.3

DISCHARGE LABS:
================
___ 07:50AM BLOOD WBC-7.5 RBC-4.30 Hgb-12.1 Hct-35.8* 
MCV-83 MCH-28.2 MCHC-33.8 RDW-14.3 Plt ___
___ 07:50AM BLOOD Glucose-87 UreaN-25* Creat-0.9 Na-141 
K-3.8 Cl-107 HCO3-24 AnGap-14
___ 07:50AM BLOOD Calcium-8.7 Phos-3.4 Mg-2.1

MICROBIOLOGY:
==============
___ Blood cultures pending
 
Brief Hospital Course:
Ms. ___ is a ___ woman with a past medical history 
significant for Alzheimer's dementia, hypothyroidism, and 
hypertension who presents with right lower extremity redness 
following a skin laceration consistent with cellulitis.  She had 
been treated with a 10 day course of dicloxacillin as an 
outpatient but the cellulitis worsened.  It is unclear why she 
failed po antibiotics.  There was never any purulent drainage to 
suggest Staph.  Patient was given a dose of vancomycin in the ED 
and started on ceftriaxone on the floor.  She remained afebrile 
and did not have a leukocytosis.  By HD 2, the area of erythema 
had significantly improved and patient denied pain.  She was 
able to ambulate normally.  Patient was transitioned to PO 
Keflex/Bactrim to complete a ___nd scheduled for 
close PCP ___.

TRANSITIONAL ISSUES:
=====================
[ ] Patient was discharged on PO Keflex and Bactrim to complete 
a 10 day course (last day ___. If wound is worsening on PCP 
___ visit, would consider switching to linezolid.
[ ] Patient reports taking levothyroxine 112 mcg 6x/week though 
her medication list suggests that she is prescribed 100 mcg 
6x/week.  Please clarify with patient.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amlodipine-valsartan ___ mg oral DAILY 
2. Donepezil 10 mg PO DAILY 
3. Levothyroxine Sodium 100 mcg PO 6X/WEEK (___) 
4. Memantine 5 mg PO BID 
5. Omeprazole 20 mg PO DAILY 
6. Simvastatin 20 mg PO QPM 
7. Aspirin 81 mg PO DAILY 
8. Vitamin D ___ UNIT PO DAILY 
9. Ferrous GLUCONATE 324 mg PO DAILY 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Donepezil 10 mg PO DAILY 
3. Ferrous GLUCONATE 324 mg PO DAILY 
4. Memantine 5 mg PO BID 
5. Omeprazole 20 mg PO DAILY 
6. Simvastatin 20 mg PO QPM 
7. Vitamin D ___ UNIT PO DAILY 
8. amlodipine-valsartan ___ mg oral DAILY 
9. Cephalexin 500 mg PO Q8H Duration: ___ompletes ___. 
10. Sulfameth/Trimethoprim DS 1 TAB PO BID Duration: ___ompletes ___. 
11. Levothyroxine Sodium 100 mcg PO 6X/WEEK (___) 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
===================
Cellulitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure caring for you during your hospitalization at 
___.  You were admitted for cellulitis, which is an infection 
of the skin.  You were given IV antibiotics and the infection 
improved.  Please continue the course of oral antibiotics as 
prescribed.  We have scheduled you an appointment for ___ 
with your primary care physician this week.

We wish you the best!

Sincerely,
Your ___ Team
 
Followup Instructions:
___